US08138181B2
Step B: (E)-8-(tert-butyldimethylsilyloxy)-2-(2-methoxyvinyl)quinoline:
Methoxymethyl triphenylphosphonium chloride (3.94 g, 11.5 mmol) was suspended in anhydrous THF (25 mL) under an atmosphere of dry N2. After cooling to 0° C., potassium tert-butoxide (1.41 g, 12.5 mmol) was added. The solution was stirred at 0° C. for 5 minutes, then warmed to ambient temperature. After 15 minutes 8-(tert-butyldimethylsilyloxy)quinoline-2-carbaldehyde (3.00 g, 10.4 mmol) was added. The reaction was stirred at ambient temperature overnight, and then concentrated under vacuum. Diethyl ether (200 mL) was added, and the mixture was stirred at ambient temperature for 1 hour and then filtered. The precipitate was washed with diethyl ether and the filtrate was collected and concentrated under vacuum. The resulting residue was dissolved in diethyl ether (50 mL) to which hexanes (50 mL) was added. The mixture was stirred for 1 hour and then filtered. The filtrate was concentrated under vacuum to give 3.12 g, 95% of the desired product as a mixture of cis-trans isomers.

reactant | Methoxymethyl triphenylphosphonium chloride | 11.5 mmol, 3.94 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 12.5 mmol, 1.41 g | CC(C)([O-])C.[K+]
reactant | 8-(tert-butyldimethylsilyloxy)quinoline-2-carbaldehyde | 10.4 mmol, 3.00 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C=O | C16H21NO2Si
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (E)-8-(tert-butyldimethylsilyloxy)-2-(2-methoxyvinyl)quinoline | 3.12 g, 95% | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)\C=C\OC | C18H25NO2Si
